US07732446B1
A solution of (6,7-dimethoxy-4-thioureido-isoquinolin-1-ylmethyl)carbamic acid tert-butyl ester (50 mg, 0.127 mmol) and ethyl bromopyruvate (30.4 mg, 0.140 mmol) in acetone (1.4 mL) in a conical vial was added MgSO4 (7.7 mg, 0.0637 mmol). The resulting suspension was placed in an aluminum block preheated to 60° C. and was allowed to stir for 3.0 h. The reaction was cooled and concentrated. The residue was purified using a 5 g silica cartridge (MeOH/CH2Cl2, 1:99) to give 2-[1-(tert-butoxycarbonylamino-methyl)-6,7-dimethoxy-isoquinolin-4-ylamino]thiazole-4-carboxylic acid ethyl ester as a pale yellow solid (42.2 mg; 68%). 1H-NMR (CDCl3): δ, 8.51 (s, 1H), 7.48 (s, 1H), 7.42 (s, 1H), 6.13 (s, 1H), 4.91 (d, 2H, J=4.7 Hz), 4.39 (q, 2H, J=7.0 Hz), 4.05 (s, 3H), 3.99 (s, 3H), 1.50 (s, 9H), 1.40 (t, 3H, J=7.3 Hz); MS: calculated for C23H28N4O6S+H 489.0; found: 489.0.

reactant | (6,7-dimethoxy-4-thioureido-isoquinolin-1-ylmethyl)carbamic acid tert-butyl ester | 0.127 mmol, 50 mg | C(C)(C)(C)OC(NCC1=NC=C(C2=CC(=C(C=C12)OC)OC)NC(=S)N)=O | C18H24N4O4S
reactant | ethyl bromopyruvate | 0.140 mmol, 30.4 mg | BrCC(C(=O)OCC)=O | C5H7BrO3
reactant | MgSO4 | 0.0637 mmol, 7.7 mg | [O-]S(=O)(=O)[O-].[Mg+2]
reactant | aluminum | [Al] | Al
solvent | acetone | 1.4 mL | CC(=O)C | C3H6O
product | 2-[1-(tert-butoxycarbonylamino-methyl)-6,7-dimethoxy-isoquinolin-4-ylamino]thiazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1N=C(SC1)NC1=CN=C(C2=CC(=C(C=C12)OC)OC)CNC(=O)OC(C)(C)C | C23H28N4O6S
